US07671043B2
13C. {3-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]phenyl}methanol
Carbonyl diimidazole (421 mg, 2.60 mmol) was added to a solution of 4-isobutyl benzoic acid (386 mg, 2.17 mmol) and DMF (10 mL) and stirred for 2 hours at room temperature. N′-hydroxy-3-(hydroxymethyl)benzenecarboximidamide (360 mg, 2.17 mmol) was added to the reaction mixture and stirred for 18 hours at ambient temperature. The reaction was diluted with water and extracted with ethyl acetate (2×) and the combined organic extracts were washed with 0.25 N sodium hydroxide, water and brine. The organic layer was dried (MgSO4), filtered and concentrated in vacuo to give a crude residue. The crude residue was dissolved in THF (6 mL) and treated with tetrabutyl ammonium fluoride (1M in THF, 2.4 mL, 2.38 mmol). The solution was stirred at ambient temperature for 18 hours, diluted with brine and extracted with ethyl acetate. The combined organic layers were concentrated in vacuo. Purification by flash chromatography (silica, 1:9 to 2:3 EtOAc:hexanes) provided the title compound (193 mg, 29% yield) as a solid.

reactant | Carbonyl diimidazole | 2.60 mmol, 421 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-isobutyl benzoic acid | 2.17 mmol, 386 mg | C(C(C)C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | N′-hydroxy-3-(hydroxymethyl)benzenecarboximidamide | 2.17 mmol, 360 mg | ON=C(N)C1=CC(=CC=C1)CO | C8H10N2O2
reactant | tetrabutyl ammonium fluoride | 2.38 mmol, 1M, 2.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | {3-[5-(4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]phenyl}methanol | 193 mg, 29% yield | C(C(C)C)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=C(C=CC1)CO | C19H20N2O2
